US08039472B2
To (S)-3-[4-(3-hydroxy-propyl)-phenoxy]-propane-1,2-diol (11.5 g, 50.9 mmol) in dry DMF (150 ml) is added pyridinium p-toluenesulfonate (1.28 g, 5 mmol) and 2,2-dimethoxypropane (31 ml, 250 mmol). The mixture is stirred at room temperature for 18 hours and then the solvent is removed in vacuo. The residue is dissolved in EtOAc (150 ml) and washed with water, saturated aqueous sodium hydrogen carbonate solution, brine, dried (MgSO4) and concentrated in vacuo. The residue is purified by chromatography on silica eluting with 1:4 EtOAc/iso-hexane to 1:1 EtOAc/iso-hexane to afford (3-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-propan-1-ol as a colourless oil; 1H NMR (CDCl3): 1.25 (1H, br), 1.39 (3H, s), 1.43 (3H, s), 1.85 (2H, pent, J=6.9 Hz), 2.63 (2H, tr, J=6.9 Hz), 3.63 (2H, tr, J=6.9 Hz), 3.90 (2H, m), 4.02 (1H, m), 4.12 (1H, m), 4.50 (1H, pent, J=6.8 Hz), 6.82 (2H, d, J=7.4 Hz), 7.10 (2H, d, J=7.4 Hz).

reactant | (S)-3-[4-(3-hydroxy-propyl)-phenoxy]-propane-1,2-diol | 50.9 mmol, 11.5 g | OCCCC1=CC=C(OC[C@H](CO)O)C=C1 | C12H18O4
reactant | pyridinium p-toluenesulfonate | 5 mmol, 1.28 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 2,2-dimethoxypropane | 250 mmol, 31 ml | COC(C)(C)OC | C5H12O2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 3-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-propan-1-ol | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCO)C | C15H22O4
